US06255487B1
II.2.1. 13.9 g (0.05 mol) of 2-(4-benzyl-1-piperazinyl)ethoxyacetamide prepared in Example I.2.1. and 139 ml of ethanol are introduced into a 250 ml three-necked round-bottomed flask fitted with a water-cooled condenser and a mechanical stirrer. 1.4 g o palladium on-charcoal (10% by weight) and 15.8 g of ammonium formate are then added. The mixture is heated at 30° C. for 30 minutes, and then at 40° C. for 1 hour, and again at 60° C. for 30 minutes. The mixture is allowed to cool to 40° C. and is filtered through diatomaceous earth (dicalite). The palladium is washed with ethanol. The filtrate is concentrated on a rotary evaporator under reduced pressure. 9.5 g (100%) of 2-(1-piperazinyl)ethoxyacetamide are obtained in the form of a colorless oil which crystallizes.

reactant | 2-(4-benzyl-1-piperazinyl)ethoxyacetamide | 0.05 mol, 13.9 g | C(C1=CC=CC=C1)N1CCN(CC1)CCOCC(=O)N | C15H23N3O2
reactant | ethanol | 139 ml | C(C)O | C2H6O
reactant | ammonium formate | 15.8 g | C(=O)[O-].[NH4+]
catalyst | palladium on-charcoal | [Pd] | Pd
solvent | water | O | H2O
product | 2-(1-piperazinyl)ethoxyacetamide | 9.5 g, 100% | N1(CCNCC1)CCOCC(=O)N | C8H17N3O2
